US07173129B2
Ex-35D: 4-{3E-[5-(2-Amino-phenylethynyl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonamide was prepared in a similar manner as Ex-1 using 4-acetylbenzenesulfonamide (Ex-35A) and 5-(2-amino-phenylethynyl)-2,4-dimethoxybenzaldehyde (Ex-35C), 82.6% yield, yellow solid, mp 167–169° C. 1H-NMR (300 MHz, DMSO-d6) δ 8.27 (d, J=8 Hz, 2H), 8.20(s, 1H), 8.01 (d, J=16Hz, 1H), 7.94 (d, J=8 Hz, 2H), 7.84 (d, J=16 Hz, 1H), 7.53 (s, 2H), 7.15–7.17 (m, 1H), 7.02–7.08 (m, 1H), 6.77 (s, 1H), 6.72 (d, J=8 Hz, 1H), 6.49–6.54 (m, 1H), 5.46 (br, 1H) 3.97 (s, 3H), 3.96 (s, 3H). MS m/z: 462 ([M+H]+, 100%).

reactant | 4-acetylbenzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | 5-(2-amino-phenylethynyl)-2,4-dimethoxybenzaldehyde | NC1=C(C=CC=C1)C#CC=1C(=CC(=C(C=O)C1)OC)OC | C17H15NO3
product | 4-{3E-[5-(2-Amino-phenylethynyl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonamide | 82.6% yield | NC1=C(C=CC=C1)C#CC=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OC)OC | C25H22N2O5S
